US08242104B2
9-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carbaldehyde
Ethylmagnesium bromide in ethyl ether (3.0 M, 3.472 mL) was added dropwise to a solution of 9-bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (1173 mg, 3.000 mmol) in 20 ml of tetrahydrofuran at −30° C. The mixture was stirred at this temperature for 20 min and allowed to warm to 15° C. The mixture was cooled to −25° C. again and N,N-dimethylformamide (929.2 uL, 12.00 mmol) was added. The mixture was left for 18 hours. The mixture was quenched with sat. aq. NH4Cl and extracted with ethyl acetate. The organic extracts were washed with water, brine, dried over mgSO4 and concentrated in vacuum. Yield 0.92 g. MS: 293.1

reactant | Ethylmagnesium bromide | C(C)[Mg]Br
reactant | 9-bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 3.000 mmol, 1173 mg | BrC1=CC2=C(C=3N(CCO2)C=C(N3)I)C=C1 | C11H8BrIN2O
reactant | N,N-dimethylformamide | 12.00 mmol, 929.2 uL | CN(C=O)C | C3H7NO
solvent | ethyl ether | 3.0 M, 3.472 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 9-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carbaldehyde | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C=O)C=C1 | C12H9BrN2O2
